** Custom HBT CML Standalone Divide-by-2 Front-Stage Candidate V2
** Structural seed copied from Top V3 comparator core (b8ac8271 lines 130--150)
** Substrate tap XTAP1 copied directly from Top V3 netlist (b8ac8271 line 174)
.subckt p1_cml_div2_front DIV2_P DIV2_N CLK_P CLK_N VCC_HBT VSS

* Substrate Tap (Copied literally from b8ac8271 line 174, connecting global VSS to sub!)
XTAP1 VSS sub! ptap1 R={ 1.0 / ( 1.0 / ( 9.8e-10 / ( 2.0u * 2.0u ) ) + 1.0 / ( 9.8e-4 / ( 2.0 * ( 2.0u + 2.0u ) ) ) )} w=2.0u l=2.0u

* ==============================================================================
* MASTER CML LATCH STAGE
* ==============================================================================
* Master CML Collector Loads (Copied from b8ac8271 lines 130--131)
XRC1_M VCC_HBT c_n_m sub! rppd w=1.0u l=0.838u m=1 b=0 mm_ok=1
XRC2_M VCC_HBT c_p_m sub! rppd w=1.0u l=0.838u m=1 b=0 mm_ok=1

* Master Track Differential Pair (Inverted Feedback Inputs directly from Slave Outputs: DIV2_N -> D_P, DIV2_P -> D_N)
* Copied structure from b8ac8271 lines 132--133
XQ1_M c_n_m DIV2_N e_track_m sub! npn13G2 Nx=1 mm_ok=1 selft=0
XQ2_M c_p_m DIV2_P e_track_m sub! npn13G2 Nx=1 mm_ok=1 selft=0

* Master Emitter Bleed Resistors (Copied from b8ac8271 lines 134--135)
XRBLEED_TRACK_M e_track_m e_tail_m sub! rppd w=1.0u l=0.50u m=1 b=0 mm_ok=1
XRBLEED_LATCH_M e_latch_m e_tail_m sub! rppd w=1.0u l=0.50u m=1 b=0 mm_ok=1

* Master Cross-Coupled Regenerative Latch Pair (Copied from b8ac8271 lines 136--137)
XQ3_M c_n_m ef_p_m e_latch_m sub! npn13G2 Nx=1 mm_ok=1 selft=0
XQ4_M c_p_m ef_n_m e_latch_m sub! npn13G2 Nx=1 mm_ok=1 selft=0

* Master Clock Steering Differential Pair (Sample on CLK_P / Latch on CLK_N)
* Copied from b8ac8271 lines 138--139
XQCLK_TRACK_M e_track_m CLK_P e_tail_m sub! npn13G2 Nx=1 mm_ok=1 selft=0
XQCLK_LATCH_M e_latch_m CLK_N e_tail_m sub! npn13G2 Nx=1 mm_ok=1 selft=0

* Master Emitter Follower Level Shifters (Copied from b8ac8271 lines 149--150)
XQEF1_M VCC_HBT c_p_m ef_p_m sub! npn13G2 Nx=1 mm_ok=1 selft=0
XQEF2_M VCC_HBT c_n_m ef_n_m sub! npn13G2 Nx=1 mm_ok=1 selft=0

* Master PTAT Current Bias Generator (Copied from b8ac8271 lines 140--148)
XMP1_COMP_M c_p1_comp_m c_p2_comp_m VCC_HBT VCC_HBT sg13_hv_pmos w=20.0u l=1.0u ng=1 m=1 mm_ok=1
XMP2_COMP_M c_p2_comp_m c_p2_comp_m VCC_HBT VCC_HBT sg13_hv_pmos w=20.0u l=1.0u ng=1 m=1 mm_ok=1
XQP1_COMP_M c_p1_comp_m c_p1_comp_m e_p1_comp_m sub! npn13G2 Nx=1 mm_ok=1 selft=0
XRDEG_P1_COMP_M e_p1_comp_m VSS sub! rppd w=4.0u l=0.50u m=1 b=0 mm_ok=1
XQP2_COMP_M c_p2_comp_m c_p1_comp_m e_p2_comp_m sub! npn13G2 Nx=4 mm_ok=1 selft=0
XRPTAT_COMP_M e_p2_comp_m VSS sub! rppd w=2.0u l=1.107u m=1 b=0 mm_ok=1
XCSTAB_COMP_M VSS c_p1_comp_m cap_cmim w=80.0u l=83.3u m=1 mm_ok=1
XQS_COMP_M e_tail_m c_p1_comp_m e_scomp_m sub! npn13G2 Nx=6 mm_ok=1 selft=0
XRDEG_SCOMP_M e_scomp_m VSS sub! rppd w=24.0u l=0.50u m=1 b=0 mm_ok=1

* ==============================================================================
* SLAVE CML LATCH STAGE
* ==============================================================================
* Slave CML Collector Loads (Copied structure from b8ac8271 lines 130--131)
XRC1_S VCC_HBT c_n_s sub! rppd w=1.0u l=0.838u m=1 b=0 mm_ok=1
XRC2_S VCC_HBT c_p_s sub! rppd w=1.0u l=0.838u m=1 b=0 mm_ok=1

* Slave Track Differential Pair (Forward Inputs from Master: ef_p_m -> D_P, ef_n_m -> D_N)
* Copied structure from b8ac8271 lines 132--133
XQ1_S c_n_s ef_p_m e_track_s sub! npn13G2 Nx=1 mm_ok=1 selft=0
XQ2_S c_p_s ef_n_m e_track_s sub! npn13G2 Nx=1 mm_ok=1 selft=0

* Slave Emitter Bleed Resistors (Copied structure from b8ac8271 lines 134--135)
XRBLEED_TRACK_S e_track_s e_tail_s sub! rppd w=1.0u l=0.50u m=1 b=0 mm_ok=1
XRBLEED_LATCH_S e_latch_s e_tail_s sub! rppd w=1.0u l=0.50u m=1 b=0 mm_ok=1

* Slave Cross-Coupled Regenerative Latch Pair (Copied structure from b8ac8271 lines 136--137)
XQ3_S c_n_s DIV2_P e_latch_s sub! npn13G2 Nx=1 mm_ok=1 selft=0
XQ4_S c_p_s DIV2_N e_latch_s sub! npn13G2 Nx=1 mm_ok=1 selft=0

* Slave Clock Steering Differential Pair (Complementary Clocking: Sample on CLK_N / Latch on CLK_P)
* Copied structure from b8ac8271 lines 138--139
XQCLK_TRACK_S e_track_s CLK_N e_tail_s sub! npn13G2 Nx=1 mm_ok=1 selft=0
XQCLK_LATCH_S e_latch_s CLK_P e_tail_s sub! npn13G2 Nx=1 mm_ok=1 selft=0

* Slave Emitter Follower Level Shifters (Driving Internal Subcircuit Ports DIV2_P / DIV2_N Directly)
* Copied structure from b8ac8271 lines 149--150
XQEF1_S VCC_HBT c_p_s DIV2_P sub! npn13G2 Nx=1 mm_ok=1 selft=0
XQEF2_S VCC_HBT c_n_s DIV2_N sub! npn13G2 Nx=1 mm_ok=1 selft=0

* Slave PTAT Current Bias Generator (Copied structure from b8ac8271 lines 140--148)
XMP1_COMP_S c_p1_comp_s c_p2_comp_s VCC_HBT VCC_HBT sg13_hv_pmos w=20.0u l=1.0u ng=1 m=1 mm_ok=1
XMP2_COMP_S c_p2_comp_s c_p2_comp_s VCC_HBT VCC_HBT sg13_hv_pmos w=20.0u l=1.0u ng=1 m=1 mm_ok=1
XQP1_COMP_S c_p1_comp_s c_p1_comp_s e_p1_comp_s sub! npn13G2 Nx=1 mm_ok=1 selft=0
XRDEG_P1_COMP_S e_p1_comp_s VSS sub! rppd w=4.0u l=0.50u m=1 b=0 mm_ok=1
XQP2_COMP_S c_p2_comp_s c_p1_comp_s e_p2_comp_s sub! npn13G2 Nx=4 mm_ok=1 selft=0
XRPTAT_COMP_S e_p2_comp_s VSS sub! rppd w=2.0u l=1.107u m=1 b=0 mm_ok=1
XCSTAB_COMP_S VSS c_p1_comp_s cap_cmim w=80.0u l=83.3u m=1 mm_ok=1
XQS_COMP_S e_tail_s c_p1_comp_s e_scomp_s sub! npn13G2 Nx=6 mm_ok=1 selft=0
XRDEG_SCOMP_S e_scomp_s VSS sub! rppd w=24.0u l=0.50u m=1 b=0 mm_ok=1

.ends
